US04920120
2-(2,3,4,5-Tetrafluoro-6-methylphenyl)-4,4-dimethyl-2-oxazoline
A solution of 21.2 g (80.0 mmol) of 2-(pentafluorophenyl)-4,4-dimethyl-2-oxazoline (Bull. Chem. Soc. Jpn., 57, 225 (1984)) in 300 ml of dry ether was cooled to -20° C. under argon and treated with 60 ml of 1.6M methyl lithium (96.0 mmol). The solution was stirred at -20° C. for two hours, then stirred at room temperature overnight. The mixture was diluted with water, and the organic layer was dried over magnesium sulfate and concentrated to give 20.8 g of the title compound as an orange oil.

reactant | 2-(pentafluorophenyl)-4,4-dimethyl-2-oxazoline | 80.0 mmol, 21.2 g | FC1=C(C(=C(C(=C1C=1OCC(N1)(C)C)F)F)F)F | C11H8F5NO
reactant | methyl lithium | 96.0 mmol, 1.6M, 60 ml | C[Li]
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-(2,3,4,5-Tetrafluoro-6-methylphenyl)-4,4-dimethyl-2-oxazoline | 20.8 g | FC1=C(C(=C(C(=C1F)F)F)C)C=1OCC(N1)(C)C | C12H11F4NO
